US09127024B2
Step 3: Synthesis of 2-Fluoro-3-Iodo-4-Methyl-benzoic acid methyl ester
In a 500 ml one-neck flask equipped with a magnetic stir-bar and condenser was added 2-fluoro-3-Iodo-4-methyl-benzoic acid (31.5 g, 112.5 mmol), 250 ml of methanol and 10 ml of sulfuric acid. The reaction was heated at 90° C. overnight.

reactant | 2-fluoro-3-Iodo-4-methyl-benzoic acid | 112.5 mmol, 31.5 g | FC1=C(C(=O)O)C=CC(=C1I)C | C8H6FIO2
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 250 ml | CO | CH4O
product | 2-Fluoro-3-Iodo-4-Methyl-benzoic acid methyl ester | COC(C1=C(C(=C(C=C1)C)I)F)=O | C9H8FIO2
